US05068325
8f) 2-Amino-6-(3-(3-methoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-methoxy-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. -Yield: 21% of theory, Melting point: 120°-124° C.

reactant | 3-methoxy-cinnamyl chloride | COC=1C=C(C=CCCl)C=CC1 | C10H11ClO
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3-methoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 21% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=CC=C1)OC | C17H21N3OS
